US04937268
3-(4-Bromophenoxy)-1-propanol
Powdered sodium hydroxide (2.2 g) was added to a solution of 4-bromophenol (3.46 g) and 3-bromopropanol (2.36 ml) in DMSO (18 ml). The mixture was stirred vigorously at 20° for 2.5 h then diluted with ethyl acetate (100 ml) and washed successively with 2N hydrochloric acid (100 ml), water (100 ml×2) and brine. Concentration of the dried organic phase yielded the title compound (5.02 g) as a pale orange oil. T.l.c. (diethyl ether) Rf 0.32.

reactant | sodium hydroxide | 2.2 g | [OH-].[Na+]
reactant | 4-bromophenol | 3.46 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 3-bromopropanol | 2.36 ml | BrCCCO | C3H7BrO
solvent | DMSO | 18 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-Bromophenoxy)-1-propanol | 5.02 g | BrC1=CC=C(OCCCO)C=C1 | C9H11BrO2
